US08859591B2
To a solution of (+/−)-N-(cyclopentyl(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methyl)-2-methylpropane-2-sulfinamide (1.184 g, 2.680 mmol) in methanol (13.4 mL) was added hydrogen chloride (4 M in dioxane, 3.35 mL, 13.4 mmol) dropwise. The reaction was concentrated under reduced pressure to provide (+/−)-cyclopentyl(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanamine hydrochloride. 1H NMR (400 MHz, CD3OD, δ): 8.33 (s, 1H), 8.07 (s, 1H), 7.31 (s, 2H), 4.05 (d, J=10.6 Hz, 1H), 2.35-2.51 (m, 1H), 2.10-1.98 (m, 7H), 1.89-1.39 (m, 6H), 1.20-1.14 (m, 1H).

reactant | (+/−)-N-(cyclopentyl(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methyl)-2-methylpropane-2-sulfinamide | 2.680 mmol, 1.184 g | C1(CCCC1)C(NS(=O)C(C)(C)C)C1=CC(=C(C(=C1)C)N1N=CC(=C1)C(F)(F)F)C | C22H30F3N3OS
reactant | hydrogen chloride | 13.4 mmol, 4 M, 3.35 mL | Cl | ClH
solvent | methanol | 13.4 mL | CO | CH4O
product | (+/−)-cyclopentyl(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methanamine hydrochloride | Cl.C1(CCCC1)C(N)C1=CC(=C(C(=C1)C)N1N=CC(=C1)C(F)(F)F)C | InChI=1S/C18H22F3N3.ClH/c1-11-7-14(16(22)13-5-3-4-6-13)8-12(2)17(11)24-10-15(9-23-24)18(19,20)21;/h7-10,13,16H,3-6,22H2,1-2H3;1H
